US04762927
Synthesis of N-methyl-N-[2-(4-(2-furanylcarbonyl)- 1-piperazinyl)ethyl]amine
A solution of 1.0 g of 1-(2-furanylcarbonyl)-4-(2-chloroethyl)piperazine and 200 mg of sodium iodide in 40 ml of methanol which contained 25% of methylamine was reacted at 70° C. in a sealed tube for 24 hours. After allowing the reaction mixture to cool down, the reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (eluent: a 20:1:0.1 mixture of chloroform, methanol, and methanol containing 40% methylamine) to give 800 mg of crystals (yield: 82%).

reactant | 1-(2-furanylcarbonyl)-4-(2-chloroethyl)piperazine | 1.0 g | O1C(=CC=C1)C(=O)N1CCN(CC1)CCCl | C11H15ClN2O2
reactant | sodium iodide | 200 mg | [I-].[Na+]
reactant | methylamine | CN | CH5N
solvent | methanol | 40 ml | CO | CH4O
product | N-methyl-N-[2-(4-(2-furanylcarbonyl)- 1-piperazinyl)ethyl]amine | 800 mg, yield: 82% | CNCCN1CCN(CC1)C(=O)C=1OC=CC1 | C12H19N3O2
